US05641784
7-Benzyl-8-(3-(1,3-dithian-2-ylidene)-cyclopentyl)-1,3-dipropylpurine-2,6-dione
At -75° C. 14.37 ml (0.023 mol) of a 1.6M solution of butyl lithium in n-hexane is added dropwise to 4.0 g of 2-trimethylsilyl-1,3-dithiane (0.021 mol) in 15 ml of absolute tetrahydrofuran and the mixture is stirred for a further 30 minutes at -70° C. Then at the same temperature a solution of 8.0 g (0.020 mol) of 7-benzyl-8-(3-oxocyclopentyl)-1,3-dipropylpurine-2,6-dione in 70 ml of absolute tetrahydrofuran is added dropwise. The mixture is stirred for 2 hours at -70° C. and then for 2 hours at -30° C., then water is carefully added at -30° C. The phases are separated, the organic phase is evaporated down, the residue is taken up in dichloromethane, washed with water and the solution is dried and evaporated down. Purification is carried out by chromatography on silica gel using a mixture of cyclohexane/ethyl acetate as eluant in the ratio 3:1. 3.55 g (35.5% of theory) of the title compound are obtained in the form of a yellowish oil which crystallises when left to stand.

reactant | butyl lithium | C(CCC)[Li]
reactant | 2-trimethylsilyl-1,3-dithiane | 0.021 mol, 4.0 g | C[Si](C1SCCCS1)(C)C | C7H16S2Si
reactant | 7-benzyl-8-(3-oxocyclopentyl)-1,3-dipropylpurine-2,6-dione | 0.020 mol, 8.0 g | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCC)=O)CCC)C1CC(CC1)=O | C23H28N4O3
reactant | water | O | H2O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 7-Benzyl-8-(3-(1,3-dithian-2-ylidene)-cyclopentyl)-1,3-dipropylpurine-2,6-dione | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCC)=O)CCC)C1CC(CC1)=C1SCCCS1 | C27H34N4O2S2
